US08748434B2
a) (6-Chloro-4-phenyl-pyridazin-3-yl)-methyl-amine
The title compound was prepared in analogy to example 1, intermediate a, from 6-chloro-4-phenyl-pyridazin-3-ylamine and using a gradient of n-heptane:ethyl acetate (100:0 to 40:60) for the chromatographic purification. Light yellow solid (52%). MS (ESI+): m/z=220.064 ([M+H]+).

reactant | 6-chloro-4-phenyl-pyridazin-3-ylamine | ClC1=CC(=C(N=N1)N)C1=CC=CC=C1 | C10H8ClN3
reactant | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | (6-Chloro-4-phenyl-pyridazin-3-yl)-methyl-amine | ClC1=CC(=C(N=N1)NC)C1=CC=CC=C1 | C11H10ClN3
